// Generated for: spectre
// Generated on: Aug 15 18:03:12 2023
// Design library name: LDO
// Design cell name: tb_static
// Design view name: schematic
simulator lang=spectre
global 0
parameters IB l_M14 w_M14 nf_M14 l_M35 w_M35 nf_M35 l_M25 w_M25 nf_M25 l_M13 w_M13 nf_M13 l_M12 w_M12 nf_M12 l_M11 w_M11 nf_M11 l_M20 w_M20 nf_M20 l_M19 w_M19 nf_M19 l_M36 w_M36 nf_M36 l_M16 w_M16 nf_M16 l_M24 w_M24 nf_M24 l_M23 w_M23 nf_M23 l_M22 w_M22 nf_M22 l_M21 w_M21 nf_M21 l_M18 w_M18 nf_M18 l_M17 w_M17 nf_M17
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib

// Library name: LDO
// Cell name: OPP_w_fixed_bias
// View name: schematic
subckt OPP_w_fixed_bias GND IBP INN INP OUT VDD
    M14 (net33 net20 GND GND) nch_mac l=l_M14 w=w_M14 multi=1 nf=nf_M14 sigma=1 sd=540.0n ad=((nf_M14-int(nf_M14/2)*2)*(4.8e-07+((nf_M14-1)*5.4e-07)/2+0)+(nf_M14+1-int((nf_M14+1)/2)*2)*((nf_M14/2)*5.4e-07))*w_M14 as=((nf_M14-int(nf_M14/2)*2)*(4.8e-07+((nf_M14-1)*5.4e-07)/2+0)+(nf_M14+1-int((nf_M14+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M14/2-1)*5.4e-07+0+0))*w_M14 pd=(nf_M14-int(nf_M14/2)*2)*((4.8e-07+((nf_M14-1)*5.4e-07)/2+0)*2+(nf_M14+1)*w_M14)+(nf_M14+1-int((nf_M14+1)/2)*2)*(((nf_M14/2)*5.4e-07)*2+nf_M14*w_M14) ps=(nf_M14-int(nf_M14/2)*2)*((4.8e-07+((nf_M14-1)*5.4e-07)/2+0)*2+(nf_M14+1)*w_M14)+(nf_M14+1-int((nf_M14+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M14/2-1)*5.4e-07+0+0)*2+(nf_M14+2)*w_M14) nrd=(nf_M14-int(nf_M14/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M14-1))/w_M14)+(nf_M14+1-int((nf_M14+1)/2)*2)*(2.7e-07/nf_M14/w_M14) nrs=(nf_M14-int(nf_M14/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M14-1))/w_M14)+(nf_M14+1-int((nf_M14+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M14-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M14) sa=1/(1 / ((4.8e-07 + l_M14/2) + (5.4e-07 + l_M14)*(1-1)/3.5 ) )-(0.5*l_M14) sb=1/(1 / ((4.8e-07 + l_M14/2) + (5.4e-07 + l_M14)*(1-1)/3.5 ) )-(0.5*l_M14) sca=0 scb=0 scc=0 mismatchflag=1
    M35 (VB1 VB1 GND GND) nch_mac l=l_M35 w=w_M35 multi=1 nf=nf_M35 sigma=1 sd=540.0n ad=((nf_M35-int(nf_M35/2)*2)*(4.8e-07+((nf_M35-1)*5.4e-07)/2+0)+(nf_M35+1-int((nf_M35+1)/2)*2)*((nf_M35/2)*5.4e-07))*w_M35 as=((nf_M35-int(nf_M35/2)*2)*(4.8e-07+((nf_M35-1)*5.4e-07)/2+0)+(nf_M35+1-int((nf_M35+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M35/2-1)*5.4e-07+0+0))*w_M35 pd=(nf_M35-int(nf_M35/2)*2)*((4.8e-07+((nf_M35-1)*5.4e-07)/2+0)*2+(nf_M35+1)*w_M35)+(nf_M35+1-int((nf_M35+1)/2)*2)*(((nf_M35/2)*5.4e-07)*2+nf_M35*w_M35) ps=(nf_M35-int(nf_M35/2)*2)*((4.8e-07+((nf_M35-1)*5.4e-07)/2+0)*2+(nf_M35+1)*w_M35)+(nf_M35+1-int((nf_M35+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M35/2-1)*5.4e-07+0+0)*2+(nf_M35+2)*w_M35) nrd=(nf_M35-int(nf_M35/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M35-1))/w_M35)+(nf_M35+1-int((nf_M35+1)/2)*2)*(2.7e-07/nf_M35/w_M35) nrs=(nf_M35-int(nf_M35/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M35-1))/w_M35)+(nf_M35+1-int((nf_M35+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M35-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M35) sa=1/(1 / ((4.8e-07 + l_M35/2) + (5.4e-07 + l_M35)*(1-1)/3.5 ) )-(0.5*l_M35) sb=1/(1 / ((4.8e-07 + l_M35/2) + (5.4e-07 + l_M35)*(1-1)/3.5 ) )-(0.5*l_M35) sca=0 scb=0 scc=0 mismatchflag=1
    M25 (net20 net20 GND GND) nch_mac l=l_M25 w=w_M25 multi=1 nf=nf_M25 sigma=1 sd=540.0n ad=((nf_M25-int(nf_M25/2)*2)*(4.8e-07+((nf_M25-1)*5.4e-07)/2+0)+(nf_M25+1-int((nf_M25+1)/2)*2)*((nf_M25/2)*5.4e-07))*w_M25 as=((nf_M25-int(nf_M25/2)*2)*(4.8e-07+((nf_M25-1)*5.4e-07)/2+0)+(nf_M25+1-int((nf_M25+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M25/2-1)*5.4e-07+0+0))*w_M25 pd=(nf_M25-int(nf_M25/2)*2)*((4.8e-07+((nf_M25-1)*5.4e-07)/2+0)*2+(nf_M25+1)*w_M25)+(nf_M25+1-int((nf_M25+1)/2)*2)*(((nf_M25/2)*5.4e-07)*2+nf_M25*w_M25) ps=(nf_M25-int(nf_M25/2)*2)*((4.8e-07+((nf_M25-1)*5.4e-07)/2+0)*2+(nf_M25+1)*w_M25)+(nf_M25+1-int((nf_M25+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M25/2-1)*5.4e-07+0+0)*2+(nf_M25+2)*w_M25) nrd=(nf_M25-int(nf_M25/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M25-1))/w_M25)+(nf_M25+1-int((nf_M25+1)/2)*2)*(2.7e-07/nf_M25/w_M25) nrs=(nf_M25-int(nf_M25/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M25-1))/w_M25)+(nf_M25+1-int((nf_M25+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M25-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M25) sa=1/(1 / ((4.8e-07 + l_M25/2) + (5.4e-07 + l_M25)*(1-1)/3.5 ) )-(0.5*l_M25) sb=1/(1 / ((4.8e-07 + l_M25/2) + (5.4e-07 + l_M25)*(1-1)/3.5 ) )-(0.5*l_M25) sca=0 scb=0 scc=0 mismatchflag=1
    M13 (net34 net20 GND GND) nch_mac l=l_M13 w=w_M13 multi=1 nf=nf_M13 sigma=1 sd=540.0n ad=((nf_M13-int(nf_M13/2)*2)*(4.8e-07+((nf_M13-1)*5.4e-07)/2+0)+(nf_M13+1-int((nf_M13+1)/2)*2)*((nf_M13/2)*5.4e-07))*w_M13 as=((nf_M13-int(nf_M13/2)*2)*(4.8e-07+((nf_M13-1)*5.4e-07)/2+0)+(nf_M13+1-int((nf_M13+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M13/2-1)*5.4e-07+0+0))*w_M13 pd=(nf_M13-int(nf_M13/2)*2)*((4.8e-07+((nf_M13-1)*5.4e-07)/2+0)*2+(nf_M13+1)*w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*(((nf_M13/2)*5.4e-07)*2+nf_M13*w_M13) ps=(nf_M13-int(nf_M13/2)*2)*((4.8e-07+((nf_M13-1)*5.4e-07)/2+0)*2+(nf_M13+1)*w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M13/2-1)*5.4e-07+0+0)*2+(nf_M13+2)*w_M13) nrd=(nf_M13-int(nf_M13/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M13-1))/w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*(2.7e-07/nf_M13/w_M13) nrs=(nf_M13-int(nf_M13/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M13-1))/w_M13)+(nf_M13+1-int((nf_M13+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M13-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M13) sa=1/(1 / ((4.8e-07 + l_M13/2) + (5.4e-07 + l_M13)*(1-1)/3.5 ) )-(0.5*l_M13) sb=1/(1 / ((4.8e-07 + l_M13/2) + (5.4e-07 + l_M13)*(1-1)/3.5 ) )-(0.5*l_M13) sca=0 scb=0 scc=0 mismatchflag=1
    M12 (net27 VB1 net34 GND) nch_mac l=l_M12 w=w_M12 multi=1 nf=nf_M12 sigma=1 sd=540.0n ad=((nf_M12-int(nf_M12/2)*2)*(4.8e-07+((nf_M12-1)*5.4e-07)/2+0)+(nf_M12+1-int((nf_M12+1)/2)*2)*((nf_M12/2)*5.4e-07))*w_M12 as=((nf_M12-int(nf_M12/2)*2)*(4.8e-07+((nf_M12-1)*5.4e-07)/2+0)+(nf_M12+1-int((nf_M12+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M12/2-1)*5.4e-07+0+0))*w_M12 pd=(nf_M12-int(nf_M12/2)*2)*((4.8e-07+((nf_M12-1)*5.4e-07)/2+0)*2+(nf_M12+1)*w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*(((nf_M12/2)*5.4e-07)*2+nf_M12*w_M12) ps=(nf_M12-int(nf_M12/2)*2)*((4.8e-07+((nf_M12-1)*5.4e-07)/2+0)*2+(nf_M12+1)*w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M12/2-1)*5.4e-07+0+0)*2+(nf_M12+2)*w_M12) nrd=(nf_M12-int(nf_M12/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M12-1))/w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*(2.7e-07/nf_M12/w_M12) nrs=(nf_M12-int(nf_M12/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M12-1))/w_M12)+(nf_M12+1-int((nf_M12+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M12-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M12) sa=1/(1 / ((4.8e-07 + l_M12/2) + (5.4e-07 + l_M12)*(1-1)/3.5 ) )-(0.5*l_M12) sb=1/(1 / ((4.8e-07 + l_M12/2) + (5.4e-07 + l_M12)*(1-1)/3.5 ) )-(0.5*l_M12) sca=0 scb=0 scc=0 mismatchflag=1
    M11 (OUT VB1 net33 GND) nch_mac l=l_M11 w=w_M11 multi=1 nf=nf_M11 sigma=1 sd=540.0n ad=((nf_M11-int(nf_M11/2)*2)*(4.8e-07+((nf_M11-1)*5.4e-07)/2+0)+(nf_M11+1-int((nf_M11+1)/2)*2)*((nf_M11/2)*5.4e-07))*w_M11 as=((nf_M11-int(nf_M11/2)*2)*(4.8e-07+((nf_M11-1)*5.4e-07)/2+0)+(nf_M11+1-int((nf_M11+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M11/2-1)*5.4e-07+0+0))*w_M11 pd=(nf_M11-int(nf_M11/2)*2)*((4.8e-07+((nf_M11-1)*5.4e-07)/2+0)*2+(nf_M11+1)*w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*(((nf_M11/2)*5.4e-07)*2+nf_M11*w_M11) ps=(nf_M11-int(nf_M11/2)*2)*((4.8e-07+((nf_M11-1)*5.4e-07)/2+0)*2+(nf_M11+1)*w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M11/2-1)*5.4e-07+0+0)*2+(nf_M11+2)*w_M11) nrd=(nf_M11-int(nf_M11/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M11-1))/w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*(2.7e-07/nf_M11/w_M11) nrs=(nf_M11-int(nf_M11/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M11-1))/w_M11)+(nf_M11+1-int((nf_M11+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M11-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M11) sa=1/(1 / ((4.8e-07 + l_M11/2) + (5.4e-07 + l_M11)*(1-1)/3.5 ) )-(0.5*l_M11) sb=1/(1 / ((4.8e-07 + l_M11/2) + (5.4e-07 + l_M11)*(1-1)/3.5 ) )-(0.5*l_M11) sca=0 scb=0 scc=0 mismatchflag=1
    M20 (net28 net28 VDD VDD) pch_mac l=l_M20 w=w_M20 multi=1 nf=nf_M20 sigma=1 sd=540.0n ad=((nf_M20-int(nf_M20/2)*2)*(4.8e-07+((nf_M20-1)*5.4e-07)/2+0)+(nf_M20+1-int((nf_M20+1)/2)*2)*((nf_M20/2)*5.4e-07))*w_M20 as=((nf_M20-int(nf_M20/2)*2)*(4.8e-07+((nf_M20-1)*5.4e-07)/2+0)+(nf_M20+1-int((nf_M20+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M20/2-1)*5.4e-07+0+0))*w_M20 pd=(nf_M20-int(nf_M20/2)*2)*((4.8e-07+((nf_M20-1)*5.4e-07)/2+0)*2+(nf_M20+1)*w_M20)+(nf_M20+1-int((nf_M20+1)/2)*2)*(((nf_M20/2)*5.4e-07)*2+nf_M20*w_M20) ps=(nf_M20-int(nf_M20/2)*2)*((4.8e-07+((nf_M20-1)*5.4e-07)/2+0)*2+(nf_M20+1)*w_M20)+(nf_M20+1-int((nf_M20+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M20/2-1)*5.4e-07+0+0)*2+(nf_M20+2)*w_M20) nrd=(nf_M20-int(nf_M20/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M20-1))/w_M20)+(nf_M20+1-int((nf_M20+1)/2)*2)*(2.7e-07/nf_M20/w_M20) nrs=(nf_M20-int(nf_M20/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M20-1))/w_M20)+(nf_M20+1-int((nf_M20+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M20-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M20) sa=1/(1 / ((4.8e-07 + l_M20/2) + (5.4e-07 + l_M20)*(1-1)/3.5 ) )-(0.5*l_M20) sb=1/(1 / ((4.8e-07 + l_M20/2) + (5.4e-07 + l_M20)*(1-1)/3.5 ) )-(0.5*l_M20) sca=0 scb=0 scc=0 mismatchflag=1
    M19 (net36 net28 VDD VDD) pch_mac l=l_M19 w=w_M19 multi=1 nf=nf_M19 sigma=1 sd=540.0n ad=((nf_M19-int(nf_M19/2)*2)*(4.8e-07+((nf_M19-1)*5.4e-07)/2+0)+(nf_M19+1-int((nf_M19+1)/2)*2)*((nf_M19/2)*5.4e-07))*w_M19 as=((nf_M19-int(nf_M19/2)*2)*(4.8e-07+((nf_M19-1)*5.4e-07)/2+0)+(nf_M19+1-int((nf_M19+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M19/2-1)*5.4e-07+0+0))*w_M19 pd=(nf_M19-int(nf_M19/2)*2)*((4.8e-07+((nf_M19-1)*5.4e-07)/2+0)*2+(nf_M19+1)*w_M19)+(nf_M19+1-int((nf_M19+1)/2)*2)*(((nf_M19/2)*5.4e-07)*2+nf_M19*w_M19) ps=(nf_M19-int(nf_M19/2)*2)*((4.8e-07+((nf_M19-1)*5.4e-07)/2+0)*2+(nf_M19+1)*w_M19)+(nf_M19+1-int((nf_M19+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M19/2-1)*5.4e-07+0+0)*2+(nf_M19+2)*w_M19) nrd=(nf_M19-int(nf_M19/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M19-1))/w_M19)+(nf_M19+1-int((nf_M19+1)/2)*2)*(2.7e-07/nf_M19/w_M19) nrs=(nf_M19-int(nf_M19/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M19-1))/w_M19)+(nf_M19+1-int((nf_M19+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M19-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M19) sa=1/(1 / ((4.8e-07 + l_M19/2) + (5.4e-07 + l_M19)*(1-1)/3.5 ) )-(0.5*l_M19) sb=1/(1 / ((4.8e-07 + l_M19/2) + (5.4e-07 + l_M19)*(1-1)/3.5 ) )-(0.5*l_M19) sca=0 scb=0 scc=0 mismatchflag=1
    M36 (VB1 IBP VDD VDD) pch_mac l=l_M36 w=w_M36 multi=1 nf=nf_M36 sigma=1 sd=540.0n ad=((nf_M36-int(nf_M36/2)*2)*(4.8e-07+((nf_M36-1)*5.4e-07)/2+0)+(nf_M36+1-int((nf_M36+1)/2)*2)*((nf_M36/2)*5.4e-07))*w_M36 as=((nf_M36-int(nf_M36/2)*2)*(4.8e-07+((nf_M36-1)*5.4e-07)/2+0)+(nf_M36+1-int((nf_M36+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M36/2-1)*5.4e-07+0+0))*w_M36 pd=(nf_M36-int(nf_M36/2)*2)*((4.8e-07+((nf_M36-1)*5.4e-07)/2+0)*2+(nf_M36+1)*w_M36)+(nf_M36+1-int((nf_M36+1)/2)*2)*(((nf_M36/2)*5.4e-07)*2+nf_M36*w_M36) ps=(nf_M36-int(nf_M36/2)*2)*((4.8e-07+((nf_M36-1)*5.4e-07)/2+0)*2+(nf_M36+1)*w_M36)+(nf_M36+1-int((nf_M36+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M36/2-1)*5.4e-07+0+0)*2+(nf_M36+2)*w_M36) nrd=(nf_M36-int(nf_M36/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M36-1))/w_M36)+(nf_M36+1-int((nf_M36+1)/2)*2)*(2.7e-07/nf_M36/w_M36) nrs=(nf_M36-int(nf_M36/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M36-1))/w_M36)+(nf_M36+1-int((nf_M36+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M36-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M36) sa=1/(1 / ((4.8e-07 + l_M36/2) + (5.4e-07 + l_M36)*(1-1)/3.5 ) )-(0.5*l_M36) sb=1/(1 / ((4.8e-07 + l_M36/2) + (5.4e-07 + l_M36)*(1-1)/3.5 ) )-(0.5*l_M36) sca=0 scb=0 scc=0 mismatchflag=1
    M16 (net11 IBP VDD VDD) pch_mac l=l_M16 w=w_M16 multi=1 nf=nf_M16 sigma=1 sd=540.0n ad=((nf_M16-int(nf_M16/2)*2)*(4.8e-07+((nf_M16-1)*5.4e-07)/2+0)+(nf_M16+1-int((nf_M16+1)/2)*2)*((nf_M16/2)*5.4e-07))*w_M16 as=((nf_M16-int(nf_M16/2)*2)*(4.8e-07+((nf_M16-1)*5.4e-07)/2+0)+(nf_M16+1-int((nf_M16+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M16/2-1)*5.4e-07+0+0))*w_M16 pd=(nf_M16-int(nf_M16/2)*2)*((4.8e-07+((nf_M16-1)*5.4e-07)/2+0)*2+(nf_M16+1)*w_M16)+(nf_M16+1-int((nf_M16+1)/2)*2)*(((nf_M16/2)*5.4e-07)*2+nf_M16*w_M16) ps=(nf_M16-int(nf_M16/2)*2)*((4.8e-07+((nf_M16-1)*5.4e-07)/2+0)*2+(nf_M16+1)*w_M16)+(nf_M16+1-int((nf_M16+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M16/2-1)*5.4e-07+0+0)*2+(nf_M16+2)*w_M16) nrd=(nf_M16-int(nf_M16/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M16-1))/w_M16)+(nf_M16+1-int((nf_M16+1)/2)*2)*(2.7e-07/nf_M16/w_M16) nrs=(nf_M16-int(nf_M16/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M16-1))/w_M16)+(nf_M16+1-int((nf_M16+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M16-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M16) sa=1/(1 / ((4.8e-07 + l_M16/2) + (5.4e-07 + l_M16)*(1-1)/3.5 ) )-(0.5*l_M16) sb=1/(1 / ((4.8e-07 + l_M16/2) + (5.4e-07 + l_M16)*(1-1)/3.5 ) )-(0.5*l_M16) sca=0 scb=0 scc=0 mismatchflag=1
    M24 (net20 IBP VDD VDD) pch_mac l=l_M24 w=w_M24 multi=1 nf=nf_M24 sigma=1 sd=540.0n ad=((nf_M24-int(nf_M24/2)*2)*(4.8e-07+((nf_M24-1)*5.4e-07)/2+0)+(nf_M24+1-int((nf_M24+1)/2)*2)*((nf_M24/2)*5.4e-07))*w_M24 as=((nf_M24-int(nf_M24/2)*2)*(4.8e-07+((nf_M24-1)*5.4e-07)/2+0)+(nf_M24+1-int((nf_M24+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M24/2-1)*5.4e-07+0+0))*w_M24 pd=(nf_M24-int(nf_M24/2)*2)*((4.8e-07+((nf_M24-1)*5.4e-07)/2+0)*2+(nf_M24+1)*w_M24)+(nf_M24+1-int((nf_M24+1)/2)*2)*(((nf_M24/2)*5.4e-07)*2+nf_M24*w_M24) ps=(nf_M24-int(nf_M24/2)*2)*((4.8e-07+((nf_M24-1)*5.4e-07)/2+0)*2+(nf_M24+1)*w_M24)+(nf_M24+1-int((nf_M24+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M24/2-1)*5.4e-07+0+0)*2+(nf_M24+2)*w_M24) nrd=(nf_M24-int(nf_M24/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M24-1))/w_M24)+(nf_M24+1-int((nf_M24+1)/2)*2)*(2.7e-07/nf_M24/w_M24) nrs=(nf_M24-int(nf_M24/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M24-1))/w_M24)+(nf_M24+1-int((nf_M24+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M24-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M24) sa=1/(1 / ((4.8e-07 + l_M24/2) + (5.4e-07 + l_M24)*(1-1)/3.5 ) )-(0.5*l_M24) sb=1/(1 / ((4.8e-07 + l_M24/2) + (5.4e-07 + l_M24)*(1-1)/3.5 ) )-(0.5*l_M24) sca=0 scb=0 scc=0 mismatchflag=1
    M23 (IBP IBP VDD VDD) pch_mac l=l_M23 w=w_M23 multi=1 nf=nf_M23 sigma=1 sd=540.0n ad=((nf_M23-int(nf_M23/2)*2)*(4.8e-07+((nf_M23-1)*5.4e-07)/2+0)+(nf_M23+1-int((nf_M23+1)/2)*2)*((nf_M23/2)*5.4e-07))*w_M23 as=((nf_M23-int(nf_M23/2)*2)*(4.8e-07+((nf_M23-1)*5.4e-07)/2+0)+(nf_M23+1-int((nf_M23+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M23/2-1)*5.4e-07+0+0))*w_M23 pd=(nf_M23-int(nf_M23/2)*2)*((4.8e-07+((nf_M23-1)*5.4e-07)/2+0)*2+(nf_M23+1)*w_M23)+(nf_M23+1-int((nf_M23+1)/2)*2)*(((nf_M23/2)*5.4e-07)*2+nf_M23*w_M23) ps=(nf_M23-int(nf_M23/2)*2)*((4.8e-07+((nf_M23-1)*5.4e-07)/2+0)*2+(nf_M23+1)*w_M23)+(nf_M23+1-int((nf_M23+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M23/2-1)*5.4e-07+0+0)*2+(nf_M23+2)*w_M23) nrd=(nf_M23-int(nf_M23/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M23-1))/w_M23)+(nf_M23+1-int((nf_M23+1)/2)*2)*(2.7e-07/nf_M23/w_M23) nrs=(nf_M23-int(nf_M23/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M23-1))/w_M23)+(nf_M23+1-int((nf_M23+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M23-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M23) sa=1/(1 / ((4.8e-07 + l_M23/2) + (5.4e-07 + l_M23)*(1-1)/3.5 ) )-(0.5*l_M23) sb=1/(1 / ((4.8e-07 + l_M23/2) + (5.4e-07 + l_M23)*(1-1)/3.5 ) )-(0.5*l_M23) sca=0 scb=0 scc=0 mismatchflag=1
    M22 (net27 net27 net28 VDD) pch_mac l=l_M22 w=w_M22 multi=1 nf=nf_M22 sigma=1 sd=540.0n ad=((nf_M22-int(nf_M22/2)*2)*(4.8e-07+((nf_M22-1)*5.4e-07)/2+0)+(nf_M22+1-int((nf_M22+1)/2)*2)*((nf_M22/2)*5.4e-07))*w_M22 as=((nf_M22-int(nf_M22/2)*2)*(4.8e-07+((nf_M22-1)*5.4e-07)/2+0)+(nf_M22+1-int((nf_M22+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M22/2-1)*5.4e-07+0+0))*w_M22 pd=(nf_M22-int(nf_M22/2)*2)*((4.8e-07+((nf_M22-1)*5.4e-07)/2+0)*2+(nf_M22+1)*w_M22)+(nf_M22+1-int((nf_M22+1)/2)*2)*(((nf_M22/2)*5.4e-07)*2+nf_M22*w_M22) ps=(nf_M22-int(nf_M22/2)*2)*((4.8e-07+((nf_M22-1)*5.4e-07)/2+0)*2+(nf_M22+1)*w_M22)+(nf_M22+1-int((nf_M22+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M22/2-1)*5.4e-07+0+0)*2+(nf_M22+2)*w_M22) nrd=(nf_M22-int(nf_M22/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M22-1))/w_M22)+(nf_M22+1-int((nf_M22+1)/2)*2)*(2.7e-07/nf_M22/w_M22) nrs=(nf_M22-int(nf_M22/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M22-1))/w_M22)+(nf_M22+1-int((nf_M22+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M22-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M22) sa=1/(1 / ((4.8e-07 + l_M22/2) + (5.4e-07 + l_M22)*(1-1)/3.5 ) )-(0.5*l_M22) sb=1/(1 / ((4.8e-07 + l_M22/2) + (5.4e-07 + l_M22)*(1-1)/3.5 ) )-(0.5*l_M22) sca=0 scb=0 scc=0 mismatchflag=1
    M21 (OUT net27 net36 VDD) pch_mac l=l_M21 w=w_M21 multi=1 nf=nf_M21 sigma=1 sd=540.0n ad=((nf_M21-int(nf_M21/2)*2)*(4.8e-07+((nf_M21-1)*5.4e-07)/2+0)+(nf_M21+1-int((nf_M21+1)/2)*2)*((nf_M21/2)*5.4e-07))*w_M21 as=((nf_M21-int(nf_M21/2)*2)*(4.8e-07+((nf_M21-1)*5.4e-07)/2+0)+(nf_M21+1-int((nf_M21+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M21/2-1)*5.4e-07+0+0))*w_M21 pd=(nf_M21-int(nf_M21/2)*2)*((4.8e-07+((nf_M21-1)*5.4e-07)/2+0)*2+(nf_M21+1)*w_M21)+(nf_M21+1-int((nf_M21+1)/2)*2)*(((nf_M21/2)*5.4e-07)*2+nf_M21*w_M21) ps=(nf_M21-int(nf_M21/2)*2)*((4.8e-07+((nf_M21-1)*5.4e-07)/2+0)*2+(nf_M21+1)*w_M21)+(nf_M21+1-int((nf_M21+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M21/2-1)*5.4e-07+0+0)*2+(nf_M21+2)*w_M21) nrd=(nf_M21-int(nf_M21/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M21-1))/w_M21)+(nf_M21+1-int((nf_M21+1)/2)*2)*(2.7e-07/nf_M21/w_M21) nrs=(nf_M21-int(nf_M21/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M21-1))/w_M21)+(nf_M21+1-int((nf_M21+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M21-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M21) sa=1/(1 / ((4.8e-07 + l_M21/2) + (5.4e-07 + l_M21)*(1-1)/3.5 ) )-(0.5*l_M21) sb=1/(1 / ((4.8e-07 + l_M21/2) + (5.4e-07 + l_M21)*(1-1)/3.5 ) )-(0.5*l_M21) sca=0 scb=0 scc=0 mismatchflag=1
    M18 (net34 INP net11 VDD) pch_mac l=l_M18 w=w_M18 multi=1 nf=nf_M18 sigma=1 sd=540.0n ad=((nf_M18-int(nf_M18/2)*2)*(4.8e-07+((nf_M18-1)*5.4e-07)/2+0)+(nf_M18+1-int((nf_M18+1)/2)*2)*((nf_M18/2)*5.4e-07))*w_M18 as=((nf_M18-int(nf_M18/2)*2)*(4.8e-07+((nf_M18-1)*5.4e-07)/2+0)+(nf_M18+1-int((nf_M18+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M18/2-1)*5.4e-07+0+0))*w_M18 pd=(nf_M18-int(nf_M18/2)*2)*((4.8e-07+((nf_M18-1)*5.4e-07)/2+0)*2+(nf_M18+1)*w_M18)+(nf_M18+1-int((nf_M18+1)/2)*2)*(((nf_M18/2)*5.4e-07)*2+nf_M18*w_M18) ps=(nf_M18-int(nf_M18/2)*2)*((4.8e-07+((nf_M18-1)*5.4e-07)/2+0)*2+(nf_M18+1)*w_M18)+(nf_M18+1-int((nf_M18+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M18/2-1)*5.4e-07+0+0)*2+(nf_M18+2)*w_M18) nrd=(nf_M18-int(nf_M18/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M18-1))/w_M18)+(nf_M18+1-int((nf_M18+1)/2)*2)*(2.7e-07/nf_M18/w_M18) nrs=(nf_M18-int(nf_M18/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M18-1))/w_M18)+(nf_M18+1-int((nf_M18+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M18-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M18) sa=1/(1 / ((4.8e-07 + l_M18/2) + (5.4e-07 + l_M18)*(1-1)/3.5 ) )-(0.5*l_M18) sb=1/(1 / ((4.8e-07 + l_M18/2) + (5.4e-07 + l_M18)*(1-1)/3.5 ) )-(0.5*l_M18) sca=0 scb=0 scc=0 mismatchflag=1
    M17 (net33 INN net11 VDD) pch_mac l=l_M17 w=w_M17 multi=1 nf=nf_M17 sigma=1 sd=540.0n ad=((nf_M17-int(nf_M17/2)*2)*(4.8e-07+((nf_M17-1)*5.4e-07)/2+0)+(nf_M17+1-int((nf_M17+1)/2)*2)*((nf_M17/2)*5.4e-07))*w_M17 as=((nf_M17-int(nf_M17/2)*2)*(4.8e-07+((nf_M17-1)*5.4e-07)/2+0)+(nf_M17+1-int((nf_M17+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M17/2-1)*5.4e-07+0+0))*w_M17 pd=(nf_M17-int(nf_M17/2)*2)*((4.8e-07+((nf_M17-1)*5.4e-07)/2+0)*2+(nf_M17+1)*w_M17)+(nf_M17+1-int((nf_M17+1)/2)*2)*(((nf_M17/2)*5.4e-07)*2+nf_M17*w_M17) ps=(nf_M17-int(nf_M17/2)*2)*((4.8e-07+((nf_M17-1)*5.4e-07)/2+0)*2+(nf_M17+1)*w_M17)+(nf_M17+1-int((nf_M17+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M17/2-1)*5.4e-07+0+0)*2+(nf_M17+2)*w_M17) nrd=(nf_M17-int(nf_M17/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M17-1))/w_M17)+(nf_M17+1-int((nf_M17+1)/2)*2)*(2.7e-07/nf_M17/w_M17) nrs=(nf_M17-int(nf_M17/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M17-1))/w_M17)+(nf_M17+1-int((nf_M17+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M17-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M17) sa=1/(1 / ((4.8e-07 + l_M17/2) + (5.4e-07 + l_M17)*(1-1)/3.5 ) )-(0.5*l_M17) sb=1/(1 / ((4.8e-07 + l_M17/2) + (5.4e-07 + l_M17)*(1-1)/3.5 ) )-(0.5*l_M17) sca=0 scb=0 scc=0 mismatchflag=1
ends OPP_w_fixed_bias
// End of subcircuit definition.

// Library name: LDO
// Cell name: tb_static
// View name: schematic
I9 (0 net06 net7 net05 net3 net6) OPP_w_fixed_bias
I10 (net06 0) isource dc=IB type=dc
V4 (net7 0) vsource dc=900.0m type=dc
V3 (net05 0) vsource dc=900.0m type=dc
V0 (net6 0) vsource dc=1.8 type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
save V0:p 
saveOptions options save=allpub
